### PR TITLE
[Merged by Bors] - feat(Data/List/Cycle): `{next,prev}_getElem` without `Nodup` + infix theorems

### PR DESCRIPTION
**Pull request by SnirBroshi**
- `List.next`:
  - `l.next a = l[l.idxOf a + 1]` and `[a, l.next a] <:+: l`
  - unless `a` is the last element, in which case `l.next l.getLast = l.head`
  - and in general `l.next a = l[(l.idxOf a + 1) % l.length]`
- `List.prev`:
  - `l.prev a = l[l.idxOf a - 1]` and `[l.prev a, a] <:+: l`
  - unless `a` is the first element, in which case `l.prev l.head = l.getLast`
  - and in general `l.prev a = l[(l.idxOf a + (l.length - 1)) % l.length]`

---
Many of the existing theorems assume `l.Nodup`, so this proves the general case.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Cycle.lean [hunk 1]
```diff
@@ -239,6 +244,61 @@ theorem prev_mem (h : x ∈ l) : l.prev x h ∈ l := by
       · exact mem_cons_self
       · exact mem_cons_of_mem _ (hl _ _)
 
+theorem nextOr_eq_getElem?_idxOf_succ_of_mem_dropLast {l : List α} {a : α} (ha : a ∈ l.dropLast)
```
Comment (Vierkantor) [inline Mathlib/Data/List/Cycle.lean:252]: What is the motivation for saying `a ∈ l.dropLast` instead of another spelling such as `a ≠ l.dropLast hl`? We seem to have more lemmas of the form `getLast_eq` than `mem_dropLast`.

Please add lemmas showing that `a ∈ l.dropLast` is equivalent to `a` being different from `l.getLast`(`D`/`?`).

File: Mathlib/Data/List/Cycle.lean [hunk 2]
```diff
@@ -239,6 +244,61 @@ theorem prev_mem (h : x ∈ l) : l.prev x h ∈ l := by
...
+  match l with
+  | nil => simp at ha
+  | [head] => simp at ha
+  | x :: y :: tail =>
+    rw [getElem?_cons_succ, nextOr]
+    split_ifs with hx
+    · grind
+    rw [dropLast_cons₂, mem_cons] at ha
+    have ih := nextOr_eq_getElem?_idxOf_succ_of_mem_dropLast <| ha.resolve_left hx
+    rw [idxOf_cons_ne _ <| Ne.symm hx, ← ih]
```
Comment (Vierkantor) [inline Mathlib/Data/List/Cycle.lean]: `rw` creates new goals for hypotheses it can't figure out, so we can first do the `rw` with the inductive hypothesis, and then use `grind` to solve the side condition.
```suggestion
    rw [idxOf_cons_ne _ <| Ne.symm hx, nextOr_eq_getElem?_idxOf_succ_of_mem_dropLast]
    grind
```

File: Mathlib/Data/List/Cycle.lean [hunk 3]
```diff
@@ -239,6 +244,61 @@ theorem prev_mem (h : x ∈ l) : l.prev x h ∈ l := by
...
+
```
Comment (Vierkantor) [inline Mathlib/Data/List/Cycle.lean:267]: Let's also add the `getElem` version, since that doesn't need the `some`s around the definition. If you define the following helper lemmas in the appropriate files:
```lean4
theorem IsPrefix.idxOf_eq {l l' : List α} {a : α} (ha : a ∈ l) (hl : l <+: l') :
    l.idxOf a = l'.idxOf a := by
  obtain ⟨t, rfl⟩ := hl
  simp [idxOf_append, ha]

theorem succ_idxOf_lt_length_of_mem_dropLast {l : List α} {a : α} (ha : a ∈ l.dropLast) :
    l.idxOf a + 1 < l.length :=
  Nat.lt_pred_iff.mp <| calc
    l.idxOf a = l.dropLast.idxOf a := (l.dropLast_prefix.idxOf_eq ha).symm
    _ < l.dropLast.length := idxOf_lt_length_of_mem ha
    _ = l.length - 1 := l.length_dropLast
```

Then the proof is quite easy:
```suggestion
theorem nextOr_eq_getElem_idxOf_succ_of_mem_dropLast {l : List α} {a : α} (ha : a ∈ l.dropLast)
    (d : α) : l.nextOr a d = l[l.idxOf a + 1]'(succ_idxOf_lt_length_of_mem_dropLast ha) := by
  apply Option.some_injective
  grind [nextOr_eq_getElem?_idxOf_succ_of_mem_dropLast]
```

File: Mathlib/Data/List/Cycle.lean [hunk 4]
```diff
@@ -239,6 +244,61 @@ theorem prev_mem (h : x ∈ l) : l.prev x h ∈ l := by
...
+  rw [idxOf_append]
+  split_ifs with ha'
+  · obtain ⟨_, hl⟩ := l.dropLast_prefix
+    rw [Nat.mod_eq_of_lt <| by grind, ← (hl ▸ idxOf_append_of_mem ha' :)]
+    exact nextOr_eq_getElem?_idxOf_succ_of_mem_dropLast ha' _
+  have := mem_append.mp <| (dropLast_concat_getLast <| ne_nil_of_mem ha) ▸ ha
+  have := eq_of_mem_singleton <| this.resolve_left ha'
+  simp [← this]
+  have := next_getLast_eq_head_of_notMem_dropLast (ne_nil_of_mem ha) (this ▸ ha')
+  grind [Nat.mod_self]
```
Comment (Vierkantor) [inline Mathlib/Data/List/Cycle.lean]: Similarly, trying to golf this lemma suggests we have some missing lemmas:

```lean4
theorem mem_take_iff_idxOf_lt {a : α} : {n : ℕ} → {l : List α} →
    (ha : a ∈ l) →
    a ∈ l.take n ↔ l.idxOf a < n
  | 0, _, _ => by grind
  | _ + 1, [], ha => by grind
  | n + 1, b :: bs, ha => by
    by_cases hab : a = b
    · grind
    · have ha : a ∈ bs := by grind
      have ih : a ∈ take n _ ↔ _ := mem_take_iff_idxOf_lt ha
      grind

theorem mem_dropLast_iff_idxOf_lt {l : List α} {a : α} (ha : a ∈ l) :
    a ∈ l.dropLast ↔ l.idxOf a < l.length - 1 := by
  rw [dropLast_eq_take, mem_take_iff_idxOf_lt ha]

theorem idxOf_getLast {l : List α} (hl : l ≠ []) (hl' : l.getLast hl ∉ l.dropLast) :
    l.idxOf (l.getLast hl) = l.length - 1 :=
  le_antisymm (Nat.le_pred_of_lt (l.idxOf_lt_length_of_mem (getLast_mem _)))
    (by contrapose! hl'; rwa [mem_dropLast_iff_idxOf_lt (getLast_mem _)])
```

I'll also shorten the name, since this conclusion matches the form of `next_getElem` quite nicely.

```suggestion
theorem next_eq_getElem {l : List α} {a : α} (ha : a ∈ l) :
    l.next a ha = l[(l.idxOf a + 1) % l.length]'(Nat.mod_lt _ <| by grind) := by
  have hl := ne_nil_of_mem ha
  by_cases ha' : a ∈ l.dropLast
  · simp [next, nextOr_eq_getElem_idxOf_succ_of_mem_dropLast ha',
      Nat.mod_eq_of_lt (succ_idxOf_lt_length_of_mem_dropLast ha')]
  obtain rfl : a = l.getLast hl := by
    rw [← dropLast_append_getLast hl] at ha
    grind
  grind [next_getLast_eq_head_of_notMem_dropLast, idxOf_getLast, Nat.mod_self]
```

File: Mathlib/Data/List/Cycle.lean [hunk 5]
```diff
@@ -280,6 +340,43 @@ theorem next_getElem (l : List α) (h : Nodup l) (i : Nat) (hi : i < l.length) :
         simp at this; simp [this] at hi'
       · rw [getElem_cons_succ]; exact get_mem _ _
```
Comment (Vierkantor) [inline Mathlib/Data/List/Cycle.lean]: This whole proof can become `by grind [next_eq_getElem, idxOf_getElem]` now! 🎉 

(Unfortunately GitHub doesn't allow me to put a suggestion here...)

File: Mathlib/Data/List/Cycle.lean [hunk 6]
```diff
@@ -280,6 +340,43 @@ theorem next_getElem (l : List α) (h : Nodup l) (i : Nat) (hi : i < l.length) :
...
 
+theorem prev_eq_getElem?_idxOf_pred_of_ne_head {l : List α} {a : α} (ha : a ∈ l)
```
Comment (Vierkantor) [inline Mathlib/Data/List/Cycle.lean:305]: Please also apply the suggestions for `next`, to the results for `prev`.

Comment (SnirBroshi) [reply Mathlib/Data/List/Cycle.lean:305]: I added a `getElem` version of `prev_eq_getElem?_idxOf_pred_of_ne_head`, golfed `prev_getElem`, and renamed `prev_eq_getElem?_idxOf_pred_of_mem` to `prev_eq_getElem`, but as for golfing `prev_eq_getElem` further using additional lemmas I'm not sure how to.

File: Mathlib/Data/List/Cycle.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Data/List/Cycle.lean:252]: > What is the motivation for saying `a ∈ l.dropLast` instead of another spelling such as `a ≠ l.dropLast hl`?

Assuming you meant `a ≠ l.getLast`, then the reason is that these are not equivalent, the latter implies the former.
For a counterexample to the converse implication, consider `l = [0, 0], a = 0`. It is true that `a ∈ l.dropLast` but false that `a ≠ l.getLast`.

---

I added the 3 versions you mentioned:
- `a ∈ l → a ≠ l.getLast → a ∈ l.dropLast`
- `a ∈ l → a ≠ l.getLastD d → a ∈ l.dropLast`
- `a ∈ l → a ≠ l.getLast? → a ∈ l.dropLast`

but IMO the last two are redundant.

File: Mathlib/Data/List/Cycle.lean [hunk 7]
```diff
@@ -244,82 +249,97 @@ theorem prev_mem (h : x ∈ l) : l.prev x h ∈ l := by
...
-            Nat.mod_eq_of_lt (Nat.succ_lt_succ_iff.2 (Nat.succ_lt_succ_iff.2 hi'))]
-        · simp [Nat.mod_eq_of_lt (Nat.succ_lt_succ_iff.2 hi'), hi']
-        · exact hn.of_cons
-      · grind [dropLast_concat_getLast]
+    grind
+  rw [prev_eq_getElem_idxOf_pred_of_ne_head ha ha₀]
+  congr
+  rw [idxOf_cons_ne _ <| Ne.symm ha₀, Nat.succ_add_eq_add_succ]
+  change _ = (_ + (head :: _).length) % _
+  rw [Nat.add_mod_right, Nat.mod_eq_of_lt <| by grind, Nat.add_one_sub_one]
```
Comment (Vierkantor) [inline Mathlib/Data/List/Cycle.lean]: I prefer very much to avoid `change`. It turns out we don't need to rewrite `idxOf` here, just do some manipulation with natural numbers and have `grind` discharge the side conditions:
```suggestion
  rw [← Nat.add_sub_assoc, Nat.sub_add_comm, Nat.add_mod_right, Nat.mod_eq_of_lt]
  all_goals grind
```

**Review by Vierkantor — APPROVED** [review]
Thank you!

bors d+
